US07276612B2
4-{2-[(3-Dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester (70.0 g, 0.177 mol) was suspended in methanol (350 ml). 50% Potassium hydroxide (139.8 g, 1.062 mol) was added and the reaction mixture was heated to 60° C. until completion of reaction. After cooling to room temperature, the resulting crystals were filtered on a coarse frit and washed with methanol. The crystals were dried in vacuo to give 4-{2-[(3-dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid potassium salt (72.0 g) as a white solid.

reactant | 4-{2-[(3-Dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid methyl ester | 0.177 mol, 70.0 g | COC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1CN(C)C)C=CC=C2)=O | C22H24N2O5
reactant | Potassium hydroxide | 1.062 mol, 139.8 g | [OH-].[K+]
solvent | methanol | 350 ml | CO | CH4O
product | 4-{2-[(3-dimethylaminomethylbenzofuran-2-carbonyl)amino]ethoxy}benzoic acid potassium salt | 72.0 g | [K+].CN(C)CC1=C(OC2=C1C=CC=C2)C(=O)NCCOC2=CC=C(C(=O)[O-])C=C2 | InChI=1S/C21H22N2O5.K/c1-23(2)13-17-16-5-3-4-6-18(16)28-19(17)20(24)22-11-12-27-15-9-7-14(8-10-15)21(25)26;/h3-10H,11-13H2,1-2H3,(H,22,24)(H,25,26);/q;+1/p-1
